US09340555B2
To a stirred suspension of (2S)-5-tert-butoxy-2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoic acid (100 mg, 0.16 mmol) in 10 ml of anhydrous tetrahydrofuran were added HATU (73 mg, 0.19 mmol) and N,N-diisopropylethylamine (62 mg, 0.48 mmol). The mixture was heated at 60° C. for 10 minutes, followed by addition of 2M ethylamine solution in THF (0.25 ml, 0.50 mmol). The mixture was heated at 60° C. for another 5 minutes, cooled to room temperature and poured into 100 ml of water with vigorous stirring. 1M HCl was added dropwise until pH=4. The precipitates were filtered, washed with water and dried in vacuo to give the crude, which was purified by silica gel chromatography eluting with 3˜5% methanol in chloroform to give tert-butyl (4S)-5-(ethylamino)-4-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoate as white solid. Yield: 73 mg, 70%.

reactant | (2S)-5-tert-butoxy-2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoic acid | 0.16 mmol, 100 mg | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F)=O | C31H30F2N4O7S
reactant | HATU | 0.19 mmol, 73 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.48 mmol, 62 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethylamine | 2M | C(C)N | C2H7N
reactant | HCl | 1M | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 0.50 mmol, 0.25 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | tert-butyl (4S)-5-(ethylamino)-4-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoate | C(C)NC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F)=O | C33H35F2N5O6S
